US07829590B2
Method A: 3-Hydroxy-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester
Imidazole (710 mg, 10.4 mmol, 2 Eq.) and 2-Chloro-3-oxo-2,3-dihydrothiophene-2-carboxylic acid methyl ester (1.0 g, 5.19 mmol, 1.0 Eq.) were dissolved in anhydrous DCM (25 mL) and stirred at ambient temperature for 18 hours. The crude reaction mixture was partitioned between EtOAc (50 mL) and brine (50 mL), The aqueous phase was extracted with EtOAc (3×20 mL) and the combined organice extracts washed with brine (1×10 mL), dried (Na2SO4) and concentrated in vacuo. The residue was purifed by column chromatography (5% MeOH/DCM) and recrystalised from EtOAc/hexane to give the sub-title compound as a yellow powder (692 mg, 3.09 mmol 59%); 1H NMR (400 MHz, d-6 DMSO) δ 3.77 (3H, s), 7.02 (1H, s), 7.14 (1H, d), 7.74 (1H, d), 8.28 (1H, d), 10.82 (1H, br s).

reactant | Imidazole | 10.4 mmol, 710 mg, 2 Eq. | N1C=NC=C1 | C3H4N2
reactant | 2-Chloro-3-oxo-2,3-dihydrothiophene-2-carboxylic acid methyl ester | 5.19 mmol, 1.0 g, 1.0 Eq. | COC(=O)C1(SC=CC1=O)Cl | C6H5ClO3S
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester | 3.09 mmol, 692 mg, 59% | COC(=O)C=1SC(=CC1O)N1C=NC=C1 | C9H8N2O3S
